US08309734B2
[3-(2,5-Dichloro-phenoxy)-pyridin-4-yl]-(2,3-dihydro-benzo[1,4]oxazin-4-yl)-methanone
To a solution of (3-bromo-pyridin-4-yl)-(2,3-dihydro-benzo[1,4]oxazin-4-yl)-methanone (80 mg, 0.25 mmol, 1.0 equiv) and 2,5-dichloro-phenol (49 mg, 0.30 mmol, 1.2 equiv; [CAS RN 583-78-8]) in anhydrous toluene (1.5 mL) was added caesium carbonate (204 mg, 0.63 mmol, 2.5 equiv; [CAS RN 534-17-8]) and tetrakis(acetonitrile)copper(I) hexafluorophosphate (18.7 mg, 0.050 mmol, 0.2 equiv; [CAS RN 64443-05-6]). The reaction mixture was heated by microwave irradiation to 160° C. for 2 h. Purification by preparative HPLC on reversed phase (Xterra® PrepMSC 18, 5 μm, 19×50 mm column equipped with a Gilson Liquid Handler 215 autosampler, two Rainin Dynamax® SD-300 pumps, a Sedex ELSD 75 lightscatter and a Dionex UVD 340S UV detector) eluting with a gradient of acetonitrile/water provided 17 mg (17%) of the title compound as a light brown solid. MS (ISP): 400.9 [M+H]+.

reactant | (3-bromo-pyridin-4-yl)-(2,3-dihydro-benzo[1,4]oxazin-4-yl)-methanone | 0.25 mmol, 80 mg, 1.0 equiv | BrC=1C=NC=CC1C(=O)N1CCOC2=C1C=CC=C2 | C14H11BrN2O2
reactant | 2,5-dichloro-phenol | 0.30 mmol, 49 mg, 1.2 equiv | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
reactant | caesium carbonate | 0.63 mmol, 204 mg, 2.5 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(acetonitrile)copper(I) hexafluorophosphate | 0.050 mmol, 18.7 mg, 0.2 equiv | CC#N.CC#N.CC#N.CC#N.F[P-](F)(F)(F)(F)F.[Cu+]
product | [3-(2,5-Dichloro-phenoxy)-pyridin-4-yl]-(2,3-dihydro-benzo[1,4]oxazin-4-yl)-methanone | 17 mg, 17% | ClC1=C(OC=2C=NC=CC2C(=O)N2CCOC3=C2C=CC=C3)C=C(C=C1)Cl | C20H14Cl2N2O3
